US05591853
Production of 2-chloropyrimidine-4-carboxylic Acid Chloride
12 drops of dimethylformamide was added to a solution of 3.0 g (18.9 mmol) of 2-chloropyrimidine-4-carboxylic acid in 60 ml of thionyl chloride. The reaction was then refluxed for 6 hours. After cooling to room temperature, excess thionyl chloride was removed on a rotary evaporator and the residue distilled (boiling point approximately 100° C./1 mbar). 2.95 g of product, corresponding to a yield of 88 percent relative to the 2-chloropyrimidine-4-carboxylic acid used, which crystallized in the receiving flask, was obtained. The melting point of the product was 52.2° to 53.1° C. Other data for the product was:

reactant | 2-chloropyrimidine-4-carboxylic acid | 18.9 mmol, 3.0 g | ClC1=NC=CC(=N1)C(=O)O | C5H3ClN2O2
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 12 drops | CN(C=O)C | C3H7NO
product | 2-chloropyrimidine-4-carboxylic Acid Chloride | yield of 88 percent | ClC1=NC=CC(=N1)C(=O)Cl | C5H2Cl2N2O
